US06242450B1
A mixture of 0.57 gm (1.8 mMol) 1-tert-butoxycarbonyl-4-(isoquinolin-4-yl)piperidine and 6 mL trifluoroacetic acid in 6 mL dichloromethane was stirred at room temperature for 18 hours. The reaction mixture was diluted with 2N sodium hydroxide and the phases were separated. The aqueous phase was extracted well with dichloromethane. The organic phases were combined, washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with dichloromethane containing from 10% to 40% methanol and a trace of ammonium hydroxide. Fractions containing product were combined and concentrated under reduced pressure to provide 0.242 gm (63%) of 4-(isoquinolin-4-yl)piperidine as a tan solid. A portion of this material was converted to the oxalate salt to provide the title compound.

reactant | 1-tert-butoxycarbonyl-4-(isoquinolin-4-yl)piperidine | 1.8 mMol, 0.57 gm | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CN=CC2=CC=CC=C12 | C19H24N2O2
reactant | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | 4-(isoquinolin-4-yl)piperidine | 0.242 gm, 63% | C1=NC=C(C2=CC=CC=C12)C1CCNCC1 | C14H16N2
